US07037993B2
The same polymerization as in Example 2 was carried out, except for using a mixture of 15 parts of tetracyclo[4.4.0.12,5.17,10]dodec-3-ene (TCD) and 19.7 parts of 5-carboxy-5-methoxycarbonylmethyl-2-norbornene (CMCMN) obtained in Preparation Example 5 as monomers (monomer composition: TCD/CMCMN=50/50 (mol/mol)). The polymerization conversion rate was 99% or more, the monomer composition ratio (TCD/CMCMN) in the resulting ring-opened copolymer was 50/50 (mol/mol), and the weight average molecular weight (Mw) was 36,100.

reactant | tetracyclo[4.4.0.12,5.17,10]dodec-3-ene | C12C3C=CC(C2C2CCC1C2)C3 | C12H16
reactant | 5-carboxy-5-methoxycarbonylmethyl-2-norbornene | C(=O)(O)C1(C2C=CC(C1)C2)CC(=O)OC | C11H14O4
product | TCD CMCMN | C12C3C=CC(C2C2CCC1C2)C3.C(=O)(O)C1(C2C=CC(C1)C2)CC(=O)OC | InChI=1S/C12H16.C11H14O4/c1-2-8-5-7(1)11-9-3-4-10(6-9)12(8)11;1-15-9(12)6-11(10(13)14)5-7-2-3-8(11)4-7/h1-2,7-12H,3-6H2;2-3,7-8H,4-6H2,1H3,(H,13,14)
